US04962110
6-[4-(1,4-Dihydro-6-methyl-4-oxo-2-pyrimidinylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
A stirred mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (2.6 g) and 6-methyl-2-methylthiopyrimidin-4-one (3 g) in dry pyridine (40 ml) was heated under reflux for 72 hours. The volume was reduced by evaporation and the crude product (3.16 g) was collected and washed with ethanol. Recrystallisation twice from dimethylformamide gave the title compound (1.39 g), m.p. 314°-318° C. (dec).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 2.6 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 6-methyl-2-methylthiopyrimidin-4-one | 3 g | CC1=CC(NC(=N1)SC)=O | C6H8N2OS
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 6-[4-(1,4-Dihydro-6-methyl-4-oxo-2-pyrimidinylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 1.39 g | CC1=CC(N=C(N1)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)=O | C16H17N5O2
